US08168784B2
2-fluorobenzenesulfonyl fluoride
A 100-L round bottomed flask fitted with overhead stirrer, nitrogen inlet, temperature probe and ice bath was charged with 2-fluorobenzenesulfonyl chloride (50 g) and tetrahydrofuran (220 g). The solution was cooled down to −5° C. with an ice bath. Tetrabutylammonium fluoride (270 mL of 1M in tetrahydrofuran solution) was added slowly to the reactor. The internal temperature was kept less than 8° C. After the addition was completed, HPLC showed the reaction was completed. The reaction was quenched by slowly adding 250 g of water. Then 430 g of toluene was added to the reaction mixture. The layers were separated. The organic layer was washed with 250 g of water twice. The organic layer was distilled down under vacuum with the bath temperature at 48° C. 1H NMR (400 MHz, CDCl3) δ 8.01-7.96 (m, 1H), 7.76-7.83 (m, 1H), 7.32-7.44 (m, 2H).

reactant | 2-fluorobenzenesulfonyl chloride | 50 g | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | Tetrabutylammonium fluoride | 1M, 270 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 220 g | O1CCCC1 | C4H8O
product | 2-fluorobenzenesulfonyl fluoride | FC1=C(C=CC=C1)S(=O)(=O)F | C6H4F2O2S
